US04537984
A mixture of 2.2 g of ethyl 2-(4-formylphenoxy)propionate, 10 ml of methylene chloride and 2.6 g of m-chloroperbenzoic acid, were reacted for 2 hours under reflux, and after an addition of 0.5 g of water, further refluxed for 1 hour. After cooling, the reaction mixture was washed twice with 20 g of a 5% sodium hydrogen carbonate aqueous solution, then with 10 g of a 5% sodium hydrogen sulfite aqueous solution and further with 10 g of water. The mixture was concentrated by distilling off methylene chloride, and then subjected to distillation under reduced pressure, whereby 1.1 g of ethyl 2-(4-hydroxyphenoxy)propionate was obtained as a colorless transparent liquid. The boiling point was from 130° to 140° C./1 mmHg.

reactant | ethyl 2-(4-formylphenoxy)propionate | 2.2 g | C(=O)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C12H14O4
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | m-chloroperbenzoic acid | 2.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | 0.5 g | O | H2O
product | ethyl 2-(4-hydroxyphenoxy)propionate | 1.1 g | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
